US08440689B2
B. Methyl 4-cyano-2-(4-ethylpiperazin-1-yl)-6-(m-tolylamino)pyrimidine-5-carboxylate
A mixture of methyl 4-chloro-2-(4-ethylpiperazin-1-yl)-6-(m-tolylamino)pyrimidine-5-carboxylate (152.6 mg, 0.391 mmol), tetrakis(triphenylphosphine)palladium (40.8 mg, 0.035 mmol) and zinc(II) cyanide (25.2 mg, 0.215 mmol) in DMF (3 mL) was stirred at 90° C. for 3 h. Water was added and the resulting mixture was extracted with EtOAc. The organic layers were washed with aq NaHCO3, water, and brine, were dried over anhydrous Na2SO4, and then filtered through SiO2. The filtrate was concentrated under reduced pressure and the residue was purified by column chromatography (SiO2 hexanes/EtOAc=5/1) to give the title compound as a yellow oil (51.1 mg, 34%). 1H NMR (500 MHz, CDCl3) δ ppm 1.12 (t, J=7.5 Hz, 3H), 2.35 (s, 3H), 2.44-2.49 (m, 6H), 3.81-3.98 (m, 7H), 6.95-6.96 (m, 1H), 7.23-7.26 (m, 1H), 7.37-7.47 (m, 2H), 10.46 (s, 1H). [M+H] calc'd for C20H25N6O2, 381. found, 381.

reactant | methyl 4-chloro-2-(4-ethylpiperazin-1-yl)-6-(m-tolylamino)pyrimidine-5-carboxylate | 0.391 mmol, 152.6 mg | ClC1=NC(=NC(=C1C(=O)OC)NC=1C=C(C=CC1)C)N1CCN(CC1)CC | C19H24ClN5O2
reactant | Water | O | H2O
reactant | DMF | 3 mL | CN(C)C=O | C3H7NO
catalyst | tetrakis(triphenylphosphine)palladium | 0.035 mmol, 40.8 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
catalyst | zinc(II) cyanide | 0.215 mmol, 25.2 mg | [C-]#N.[Zn+2].[C-]#N
product | Methyl 4-cyano-2-(4-ethylpiperazin-1-yl)-6-(m-tolylamino)pyrimidine-5-carboxylate | 51.1 mg, 34% | C(#N)C1=NC(=NC(=C1C(=O)OC)NC=1C=C(C=CC1)C)N1CCN(CC1)CC | C20H24N6O2
